US07781441B2
d) (3,4-Dihydro-quinazolin-2-yl)-[2-(2-methoxy-phenoxy)-ethyl]-amine
2-(2-Methoxy-phenoxy)-ethylamine (42 mg, 0.25 mmol) was added to a solution of 2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide (70 mg, 0.23 mmol) in acetonitrile (1 ml), and the mixture was heated overnight (80° C.) in a screw-capped vial. The title compound (42 mg, 62%) was then isolated from the reaction mixture by preparative, reverse-phase HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 6.0 min, λ=230 nm, flow rate 40 ml/min).

reactant | 2-(2-Methoxy-phenoxy)-ethylamine | 0.25 mmol, 42 mg | COC1=C(OCCN)C=CC=C1 | C9H13NO2
reactant | 2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 0.23 mmol, 70 mg | I.CSC1=NC2=CC=CC=C2CN1
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3CN | CC#N | C2H3N
product | (3,4-Dihydro-quinazolin-2-yl)-[2-(2-methoxy-phenoxy)-ethyl]-amine | 42 mg, 62% | N1=C(NCC2=CC=CC=C12)NCCOC1=C(C=CC=C1)OC | C17H19N3O2
